US05216148
850 mg of ethyl p-[(2,3,4,5-tetrahydro-1-methyl-2-oxo-1H-1-benzazepine-8-yl)carbamoyl]benzoate were dissolved in 20 ml of tetrahydrofuran and 10 ml of ethanol and treated with 10 ml of 1.2N NaOH yielding a two-phase mixture. The mixture was stirred intensively at 35° C. for 8 hours, poured into an ice/conc. HCl solution and extracted thoroughly with ethyl acetate. The resulting product was washed with a small amount of NaCl solution, dryed, and concentrated, and the remaining residue was repeatedly boiled in ethyl acetate and dryed yielding 400 mg of p-[(2,3,4,5-tetrahydro-1-methyl-2-oxo-1H-1-benzazepin-8-yl)carbamoyl]benzoic acid as beige crystals, m.p. >270° C.

reactant | ethyl p-[(2,3,4,5-tetrahydro-1-methyl-2-oxo-1H-1-benzazepine-8-yl)carbamoyl]benzoate | 850 mg | CN1C(CCCC2=C1C=C(C=C2)NC(=O)C2=CC=C(C(=O)OCC)C=C2)=O | C21H22N2O4
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | NaOH | 1.2N, 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | p-[(2,3,4,5-tetrahydro-1-methyl-2-oxo-1H-1-benzazepin-8-yl)carbamoyl]benzoic acid | 400 mg | CN1C(CCCC2=C1C=C(C=C2)NC(=O)C2=CC=C(C(=O)O)C=C2)=O | C19H18N2O4
